US07855194B2
Step 1: 2-Chloro-pyrimidine-4-carboxylic acid methyl ester [CAS RN 149849-94-5]
To a solution of 2,6-dichloro-pyrimidine-4-carboxylic acid methyl ester (2.0 g, 9.66 mmol, 1.0 equiv; commercially available from Peakdale Molecular, UK) in ethanol (50 mL) was added palladium on activated charcoal 5% (0.10 g, 0.048 mmol, 0.5 equiv) and the reaction vessel filled with hydrogen (2.5 bar). After stirring at rt for 18 h, the reaction mixture was filtered over celite, concentrated under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.19 g (11%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 3.97 (s, 3H), 7.89 (d, J=4.9 Hz, 1H), 8.81 (d, J=4.9 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 52.67, 118.22, 156.45, 160.62, 161.18, 162.31. MS (ISP): 172.5 [M+H]+.

reactant | 2,6-dichloro-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)Cl)Cl | C6H4Cl2N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 0.048 mmol, 0.10 g, 0.5 equiv | [Pd] | Pd
product | 2-Chloro-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC=C1)Cl | C6H5ClN2O2
